US03971819
Ethyl 3-benzylamino-4-morpholino-5-sulphamyl-benzoate
A mixture of 3-amino-4-morpholino-5-sulphamyl-benzoic acid (3 g), benzyl bromide (4 g), and anhydrous ethanol (45 ml) was refluxed. After 24 hours and again after 48 hours a solution of benzyl bromide (1.5 g) in anhydrous ethanol (5 ml) was added during 4 hours. After the second addition, the refluxing was continued for 24 hours. The reaction mixture was cooled, and the precipitated ethyl 3-benzylamino-4-morpholino-5-sulphamyl-benzoate was collected by suction and recrystallized from ethanol, after which the compound was obtained with a melting point of 185-186°C.

reactant | 3-amino-4-morpholino-5-sulphamyl-benzoic acid | 3 g | NC=1C=C(C(=O)O)C=C(C1N1CCOCC1)S(N)(=O)=O | C11H15N3O5S
reactant | benzyl bromide | 4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 1.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | ethanol | 45 ml | C(C)O | C2H6O
product | Ethyl 3-benzylamino-4-morpholino-5-sulphamyl-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1N1CCOCC1)S(N)(=O)=O | C20H25N3O5S
